US07109219B2
N1-Ethyl-5-(2-(((2-ethoxyethyl)amino)carbonyl)amino-4-pyridyl)oxy-1H-1-indolecarboxamide
Phenyl N-(4-(1-(ethylamino)carbonyl-1H-5-indolyl)oxy-2-pyridyl)carbamate (100 mg, 0.24 mmol) was dissolved in N,N-dimethylformamide (1.0 ml), and 2-ethoxyethylamine (0.063 ml, 0.6 mmol) was added while stirred at room temperature. After 1 hour, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. After the solvent was distilled off, the crystals were precipitated from ethyl acetate-hexane (1:5), filtered off, and dried under aeration to yield the title compound (100 mg, 0.24 mmol, quantitative) as white crystals.

reactant | Phenyl N-(4-(1-(ethylamino)carbonyl-1H-5-indolyl)oxy-2-pyridyl)carbamate | 0.24 mmol, 100 mg | C(C)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(OC1=CC=CC=C1)=O | C23H20N4O4
reactant | 2-ethoxyethylamine | 0.6 mmol, 0.063 ml | C(C)OCCN | C4H11NO
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | N1-Ethyl-5-(2-(((2-ethoxyethyl)amino)carbonyl)amino-4-pyridyl)oxy-1H-1-indolecarboxamide | 0.24 mmol, 100 mg | C(C)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)NCCOCC | C21H25N5O4
